simulator lang=spectre
global 0

ahdl_include "../submission/phase_detector_chopper.va"

Vlo (vlocal_osc 0) vsource type=pwl wave=[0 -0.5 0.9n -0.5 1.0n 0.5 1.9n 0.5 2.0n -0.5 2.9n -0.5 3.0n 0.5 4n 0.5]
Vrf (vin_rf 0) vsource type=pwl wave=[0 0.10 0.9n 0.10 1.0n 0.20 1.9n 0.20 2.0n -0.16 2.9n -0.16 3.0n -0.24 4n -0.24]
XDUT (vlocal_osc vin_rf vif) phase_detector_chopper

tran tran stop=2.8n maxstep=10p
save vif vin_rf vlocal_osc
